US09029391B2
2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]pentanoic acid
A solution of 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)pent-4-enoic acid (69 mg, 0.162 mmol,) in ethyl acetate (2 mL) was treated with platinum(IV) oxide (8.12 mg, 0.036 mmol) and the mixture was stirred at room temperature under an atmosphere of H2 for 1 hour. The mixture was filtered and the filtrate was purified by reverse phase hplc afford the title compound (31 mg, 52%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.45-8.52 (m, 1 H) 7.43-7.54 (m, 2 H) 7.07-7.23 (m, 2 H) 6.97-7.03 (m, 1 H) 6.81-6.92 (m, 1 H) 3.79-3.97 (m, 1 H) 3.59 (s, 3 H) 2.42 (s, 3 H) 1.94-2.10 (m, 3 H) 1.54-1.74 (m, 2 H) 1.19-1.30 (m, 2 H) 0.72-0.88 (m, 3 H). LC/MS (m/z) ES+=364 (M+1).

reactant | 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)pent-4-enoic acid | 0.162 mmol, 69 mg | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)O)CC=C | C23H23NO3
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide | 0.036 mmol, 8.12 mg | [Pt](=O)=O
product | 2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]pentanoic acid | 31 mg, 52% | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)O)CCC | C23H25NO3
